US05665718
1.15 g (3.5 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature for 1 hour with 1 g (8.8 mmol) of 3,3-dimethylpiperidine and 10 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/ethanol 9/1 there were obtained 1.32 g (92%) of 3-[5-(3,3-dimethylpiperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 167°-168°, which was converted into the hydrochloride.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3.5 mmol, 1.15 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | 3,3-dimethylpiperidine | 8.8 mmol, 1 g | CC1(CNCCC1)C | C7H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[5-(3,3-dimethylpiperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.32 g, 92% | CC1(CN(CCC1)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C)C | C22H26N6O2
